US09403798B2
1-(4-Chlorobenzyl)-4-[4-(4-fluorophenyl)-3-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one
A solution of 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one (10 mg, 0.03 mmol) synthesized in Reference Synthesis Example 90 and palladium-activated carbon (3 mg) in a solvent mixture of methanol (5 mL) and dichloromethane (5 mL) was stirred in a hydrogen atmosphere for 3 days. After the completion of the reaction, the reaction solution was filtered through Celite and the filtrate was concentrated under reduced pressure to obtain the title compound (8.9 mg, yield: 90%).

reactant | 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 0.03 mmol, 10 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CC=C(C(C2)O)C2=CC=C(C=C2)F)=O)C=C1 | C21H18ClFN4O2
reactant | methanol | 5 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-activated carbon | 3 mg | [Pd] | Pd
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(4-Chlorobenzyl)-4-[4-(4-fluorophenyl)-3-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | 8.9 mg, yield: 90% | ClC1=CC=C(CN2C(N=C(N=C2)N2CC(C(CC2)C2=CC=C(C=C2)F)O)=O)C=C1 | C21H20ClFN4O2
